US06544985B2
7-(Isobutyl-methyl-amino)-4-(3-[1,2,4]triazol-1-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
Prepared from {5-(isobutyl-methyl-amino)-2-[3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (Example M122) (0.50 g, 0.87 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (350 mg, 88%).

reactant | {5-(isobutyl-methyl-amino)-2-[3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 0.87 mmol, 0.50 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=CN=C1)=O)=O)=O | C28H33F3N6O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-(Isobutyl-methyl-amino)-4-(3-[1,2,4]triazol-1-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 350 mg, 88% | C(C(C)C)N(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2N=CN=C2)=O)C=C1C(F)(F)F)C | C23H23F3N6O
